US05459138
4-PROPYLAMINOPYRIDINE-3-SULFONAMIDE
2 g of 4-chloropyridine-3-sulfonamide are dissolved in 10 cm3 of n-propylamine and 10 cm3 of isopropanol. The mixture is brought to reflux for 2 hours, the solution is then cooled and the solvent is evaporated. The solid obtained is redispersed in water (20 cm3). The insoluble material is collected on the filter, washed with water and dried.

reactant | 4-chloropyridine-3-sulfonamide | 2 g | ClC1=C(C=NC=C1)S(=O)(=O)N | C5H5ClN2O2S
solvent | n-propylamine | 10 cm3 | C(CC)N | C3H9N
solvent | isopropanol | 10 cm3 | C(C)(C)O | C3H8O
solvent | water | 20 cm3 | O | H2O
product | 4-PROPYLAMINOPYRIDINE-3-SULFONAMIDE | C(CC)NC1=C(C=NC=C1)S(=O)(=O)N | C8H13N3O2S
